US04055665
Following the procedure described in Example 1, 2-(phenylthio)benzoyl chloride is prepared from 0.065 mole of 2-(phenylthio)benzoic acid and excess thionyl chloride. A solution of the oily acid chloride in 50 ml. of benzene is added dropwise with stirring to a solution of 7 g. of dimethylamine in 50 ml. of benzene. The mixture is heated briefly to refluxing. Evaporation of the solvent under reduced pressure leaves N,N-dimethyl-2(phenylthio)benzamide as the residue.

reactant | 2-(phenylthio)benzoyl chloride | C1(=CC=CC=C1)SC1=C(C(=O)Cl)C=CC=C1 | C13H9ClOS
reactant | 2-(phenylthio)benzoic acid | 0.065 mole | C1(=CC=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C13H10O2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | CNC | C2H7N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-dimethyl-2(phenylthio)benzamide | CN(C(C1=C(C=CC=C1)SC1=CC=CC=C1)=O)C | C15H15NOS
